US07307168B2
Preparation of 3-[2-[4-[(2,4-difluorophenyl)-(hydroxyimino)-methyl]-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (compound of the Formula II)
To a solution of 36.0 g (0.16 mole) of 3-(2-chloroethyl)-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one in 800 ml of acetonitrile 44.3 g of 4-(2,4-difluoro-benzoyl)-piperidine-oxime-hydrochloride, 33.6 g of sodium hydrogen carbonate and 0.66 g (4 millimoles) of potassium iodide are added. The reaction mixture is refluxed for 5 hours, cooled to room temperature and the solvent is removed in vacuo. The residue is taken up in 700 ml of water and extracted twice with 600 ml of dichloromethane each. The combined organic layers are dried over sodium sulfate and evaporated in vacuo. Thus 63.7 g of the title compound are obtained. Yield 92.5%. M.p.: 180-183° C.

reactant | 3-(2-chloroethyl)-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.16 mole, 36.0 g | ClCCC1=C(N=C2N(C1=O)CCCC2)C | C11H15ClN2O
reactant | 4-(2,4-difluoro-benzoyl)-piperidine-oxime-hydrochloride | Cl.FC1=C(C(C2CCNCC2)=NO)C=CC(=C1)F
reactant | sodium hydrogen carbonate | 33.6 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 800 ml, 44.3 g | C(C)#N | C2H3N
catalyst | potassium iodide | 4 millimoles, 0.66 g | [I-].[K+]
product | 3-[2-[4-[(2,4-difluorophenyl)-(hydroxyimino)-methyl]-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 63.7 g, Yield 92.5% | FC1=C(C=CC(=C1)F)C(C1CCN(CC1)CCC1=C(N=C2N(C1=O)CCCC2)C)=NO | C23H28F2N4O2
